US08530648B2
Building block A61: 2-(3-(bromomethyl)phenyl)pyrimidine
To a stirred solution of (3-(pyrimidin-2-yl)phenyl)methanol [892502-12-4] (2.48 g, 12.92 mmol) in THF (25 mL), POBr3 (4.81 g, 16.79 mmol) was added and the mixture was heated at 60° C. for 90 min. The mixture was cooled to rt, poured into saturated aqueous NaHCO3 solution and extracted with ethyl acetate (2×). The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash-column chromatography over silicagel (eluent: gradient 5%-40% ethyl acetate/heptane) to yield the title compound (2.59 g, 80%). [1H NMR (400 MHz, DMSO-d6) ♀ ppm 8.92 (d, J=5.0 Hz, 2H), 8.48 (t, J=1.6 Hz, 1H), 8.32 (dt, J=7.7, 1.4 Hz, 1H), 7.58-7.62 (m, 1H), 7.49-7.54 (m, 1H), 7.47 (t, J=4.8 Hz, 1H), 4.82 (s, 2H); LCMS RtA=1.04, [M+H]+=249.2/251.2].

reactant | (3-(pyrimidin-2-yl)phenyl)methanol | 12.92 mmol, 2.48 g | N1=C(N=CC=C1)C=1C=C(C=CC1)CO | C11H10N2O
reactant | POBr3 | 16.79 mmol, 4.81 g | P(=O)(Br)(Br)Br | Br3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-(3-(bromomethyl)phenyl)pyrimidine | 2.59 g, 80% | BrCC=1C=C(C=CC1)C1=NC=CC=N1 | C11H9BrN2
